US08877744B2
A solution of 5-bromo-pyridine-3-sulfonic acid tert-butylamide (CAS 911111-80-3; WO2010007) (11.4 g, 39 mmol) in tetrahydrofuran (200 ml) was treated with triisopropyl borate (33 ml, 144 mmol) and cooled to −78° C. A solution of n-butyl lithium in hexane (1.6M, 90 ml, 144 mmol) was added cautiously whereby the reaction temperature was kept below −60° C. The reaction mixture was stirred for 3.5 hours at −78° C. For the workup, the reaction mixture was treated with water (300 ml), stirred at room temperature for 15 minutes, and then extracted with ethyl acetate. The aqueous layer was separated and acidified with hydrochloric acid (3M) to pH 4. Thereafter, solid sodium chloride was added, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over magnesium sulphate, filtered, and the solvent evaporated to give a light yellow amorphous product. For purification, the residue was dissolved at room temperature in a 3:1-mixture of water and isopropanol (100 ml). More water was added (total volume: 200 ml), then the solution cooled to 0° C., stirred for 30 minutes. The precipitate was filtrated, the solid washed with water and dried at high vacuum to give the 5-(N-tert-butylsulfamoyl)pyridin-3-ylboronic acid (5.06 g, 50% yield) as an off-white solid. MS (ISN): m/z=257.1 [M−H]−.

reactant | 5-bromo-pyridine-3-sulfonic acid tert-butylamide | 39 mmol, 11.4 g | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O2S
reactant | triisopropyl borate | 144 mmol, 33 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 144 mmol, 1.6M, 90 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 5-(N-tert-butylsulfamoyl)pyridin-3-ylboronic acid | 5.06 g, 50% yield | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=NC1)B(O)O | C9H15BN2O4S
